US06051712
In an analogous manner to the procedure described under (c), by alkylating tert-butyl (3RS,4RS)-4-(4-chlorophenyl)-3,4-dihydroxy-piperidine-1-carboxylate with 2-bromomethylnaphthalene there was obtained tert-butyl (3RS,4RS)-4-(4-chlorophenyl)-4-hydroxy-3-(naphthalen-2-ylmethoxy)-piperidine-1-carboxylate as a light yellow oil; MS: 411, 41 3 [M-(C4H8)]+.

reactant | tert-butyl (3RS,4RS)-4-(4-chlorophenyl)-3,4-dihydroxy-piperidine-1-carboxylate | ClC1=CC=C(C=C1)C1(C(CN(CC1)C(=O)OC(C)(C)C)O)O | C16H22ClNO4
reactant | 2-bromomethylnaphthalene | BrCC1=CC2=CC=CC=C2C=C1 | C11H9Br
product | tert-butyl (3RS,4RS)-4-(4-chlorophenyl)-4-hydroxy-3-(naphthalen-2-ylmethoxy)-piperidine-1-carboxylate | ClC1=CC=C(C=C1)C1(C(CN(CC1)C(=O)OC(C)(C)C)OCC1=CC2=CC=CC=C2C=C1)O | C27H30ClNO4
